US09278950B2
Step 4. 3-{[(Benzyloxy)carbonyl]amino}-7-bromoquinoline-2-carboxylic acid
To a mixture of ethyl 3-{[(benzyloxy)carbonyl]amino}-7-bromoquinoline-2-carboxylate (887.5 mg, 2.067 mmol) and K3PO4 (1494 mg, 7.038 mmol), 1,4-dioxane (10.0 mL) was added, followed by water (10.0 mL). The mixture was heated at 100° C. for 3 h. After cooling to room temperature, the reaction mixture was diluted with water (50 mL). AcOH (1313 mg, 21.86 mmol) was added to adjust the pH to 5. The mixture was extracted with EtOAc (3×50 mL). The combined organic layer was washed with brine (100 mL), dried over Na2SO4 and concentrated under reduced pressure. The resulting residue was purified by flash chromatography on silica gel (0-15% MeOH in DCM) to give the sub-title compound as a yellow solid (632.0 mg, 76%). LCMS calc. for C18H14BrN2O4(M+H)+: m/z=401.0. found 401.0.

reactant | ethyl 3-{[(benzyloxy)carbonyl]amino}-7-bromoquinoline-2-carboxylate | 2.067 mmol, 887.5 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)Br)C(=O)OCC | C20H17BrN2O4
reactant | K3PO4 | 7.038 mmol, 1494 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | 10.0 mL | O1CCOCC1 | C4H8O2
reactant | AcOH | 21.86 mmol, 1313 mg | CC(=O)O | C2H4O2
solvent | water | 50 mL | O | H2O
solvent | water | 10.0 mL | O | H2O
product | 3-{[(Benzyloxy)carbonyl]amino}-7-bromoquinoline-2-carboxylic acid | 632.0 mg, 76% | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)Br)C(=O)O | C18H13BrN2O4
